US05824691
To a solution of phosphorus oxychloride (8.3 ml) and N,N-dimethylformamide (70 ml) was added methyl 4-acetoxy-3-(pyrrol-1-yl)benzoate (11.7 g) at ambient temperature and the mixture was stirred for 20 hours at the same temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The extract layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in tetrahydrofuran. To the solution was added 28% methanolic sodium methoxide (9.7 ml) under ice-cooling and the mixture was stirred for 30 minutes at the same temperature. To the mixture was added acetic acid (6 ml) and evaporated in vacuo. To the residue was added a mixture of ethyl acetate and water, and adjusted to pH 7 with 20% aqueous potassium carbonate solution. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from toluene, collected by filtration and the precipitate was washed with ether to give methyl 3-(2-formylpyrrol-1-yl)-4-hydroxybenzoate (7.89 g).

reactant | phosphorus oxychloride | 8.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
reactant | methyl 4-acetoxy-3-(pyrrol-1-yl)benzoate | 11.7 g | C(C)(=O)OC1=C(C=C(C(=O)OC)C=C1)N1C=CC=C1 | C14H13NO4
solvent | water | O | H2O
product | methyl 3-(2-formylpyrrol-1-yl)-4-hydroxybenzoate | 7.89 g | C(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1O | C13H11NO4
